US07829580B2
(b) (E)-3-Benzylidene-1-(triphenylmethyl)piperidin-4-ol
To a solution of (E)-3-benzylidene-1-(triphenylmethyl)piperidin-4-one (3.91 g) in a mixed solvent of ethanol (30 ml) and dichloromethane (30 ml) was added sodium borohydride (0.34 g) under ice-cooling, and the resulting mixture was stirred at room temperature for 2 hours. After stirring, saturated aqueous ammonium chloride solution was added to the reaction mixture, and the resulting mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was removed in vacuo, and the residue was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (3:7) as the eluent to afford the title compound (2.61 g, yield: 66%) as a colourless amorphous solid.

reactant | (E)-3-benzylidene-1-(triphenylmethyl)piperidin-4-one | 3.91 g | C(/C1=CC=CC=C1)=C\1/CN(CCC1=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H27NO
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | sodium borohydride | 0.34 g | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (E)-3-Benzylidene-1-(triphenylmethyl)piperidin-4-ol | 2.61 g, yield: 66% | C(/C1=CC=CC=C1)=C\1/CN(CCC1O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H29NO
